US06706703B2
1,4-Bis[5-(4-methylthiophenyl)-2-pyridyl]hexahydro-1,4-diazepine
Following the procedure of Example 1, crude crystals were obtained from the 1,4-bis(5-bromo-2-pyridyl)hexahydro-1,4-diazepine (206.0 mg, 0.500 mmol) synthesized in Reference Example 1 and 4-methylthiophenylboronic acid (202.0 mg, 1.20 mmol). The crude crystals were recrystallized from chloroform-hexane to yield the title compound as pale yellow needles (melting point: 252.0-255.0° C.) (109.0 mg, yield: 43%).

reactant | 1,4-bis(5-bromo-2-pyridyl)hexahydro-1,4-diazepine | 0.500 mmol, 206.0 mg | BrC=1C=CC(=NC1)N1CCN(CCC1)C1=NC=C(C=C1)Br | C15H16Br2N4
reactant | 4-methylthiophenylboronic acid | 1.20 mmol, 202.0 mg | CSC1=CC=C(C=C1)B(O)O | C7H9BO2S
product | 1,4-Bis[5-(4-methylthiophenyl)-2-pyridyl]hexahydro-1,4-diazepine | 109.0 mg, yield: 43% | CSC1=CC=C(C=C1)C=1C=CC(=NC1)N1CCN(CCC1)C1=NC=C(C=C1)C1=CC=C(C=C1)SC | C29H30N4S2
